US07378417B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoylmethyl-phenyl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.2) and 3-(2-hydroxy-ethanesulfonyl)-aniline [CAS-Nr. 344750-15-8; prepared from commercially available 3-nitro-phenylmethane-sulfonyl chloride] according to general procedure II. Yellow solid. MS (ISP) 542.0 [(M−H)−]; mp 298° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 3-(2-hydroxy-ethanesulfonyl)-aniline | OCCS(=O)(=O)C=1C=C(N)C=CC1 | C8H11NO3S
reactant | 3-nitro-phenylmethane-sulfonyl chloride | [N+](=O)([O-])C=1C=C(C=CC1)CS(=O)(=O)Cl | C7H6ClNO4S
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoylmethyl-phenyl)-amide | S(N)(=O)(=O)CC=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H15F6N5O3S
